US05736534
4-(6-Fluoro-7-methyl-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline hydrochloride salt
Utilizing a procedure analogous to that described in Example 47 (with conversion to the HCl salt analogous to Example 2), this product was prepared in 58% yield from 6-fluoro-7-methyl-indoline (1.1 eq.), and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in N-methyl-pyrrolidinone. (M.P. 220°-225° C.; LC-MS: 340 (MH+); anal. RP18-HPLC RT: 4.63 min.).

reactant | HCl | Cl | ClH
reactant | 6-fluoro-7-methyl-indoline | 1.1 eq. | FC1=CC=C2CCNC2=C1C | C9H10FN
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | N-methyl-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 4-(6-Fluoro-7-methyl-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline hydrochloride salt | 58% yield | Cl.FC1=CC=C2CCN(C2=C1C)C1=NC=NC2=CC(=C(C=C12)OC)OC | InChI=1S/C19H18FN3O2.ClH/c1-11-14(20)5-4-12-6-7-23(18(11)12)19-13-8-16(24-2)17(25-3)9-15(13)21-10-22-19;/h4-5,8-10H,6-7H2,1-3H3;1H
